Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ yo M with CKD and nephrolithiasis 
 
Major Surgical or Invasive Procedure:
PROCEDURE PERFORMED:  Cystoscopy, left percutaneous 
nephrolithotomy, and right ureteral stent placement

 
History of Present Illness:
___ yo M with CKD and nephrolithiasis who is s/p PCNL and laser 
lithotripsy  
  
 
 
Past Medical History:
PAST MEDICAL HISTORY:
- Type 2 diabetes c/b by neuropathy 
- Hypertension
- CKD stage 4
- Dyslipidemia
- Nephrolithiasis 
- hyperlipidemia

PAST SURGICAL HISTORY:
Laser and Avastin injection in both eyes for diabetic 
retinopathy
___, Lithotripsy in ___, Colonoscopy in ___

 
Social History:
___
Family History:
- Father died due to lung problems due to smoking,
- Mother had type 2 diabetes. Brother and sister have type II
diabetes,
 
Physical Exam:
WDWN male, nad, avss
left flank w/ inc c/d/i
no hematoma/induration appreciated
l/e w/out e/p/c/d; no calf pain
 
Pertinent Results:
___ 09:25PM   GLUCOSE-297* UREA N-50* CREAT-3.5* SODIUM-140 
POTASSIUM-5.5* CHLORIDE-103 TOTAL CO2-24 ANION GAP-13
___ 09:25PM   CALCIUM-9.6

___ 02:18PM   GLUCOSE-262* UREA N-51* CREAT-3.4* SODIUM-140 
POTASSIUM-5.9* CHLORIDE-104 TOTAL CO2-24 ANION GAP-12
___ 02:18PM   estGFR-Using this

___ 02:18PM   WBC-15.7* RBC-2.90* HGB-9.5* HCT-28.6* 
MCV-99* MCH-32.8* MCHC-33.2 RDW-13.1 RDWSD-47.0*
 
Brief Hospital Course:
Mr. ___ was admitted with bilateral nephrolithiasis 
who underwent cystoscopy, left percutaneous nephrolithotomy, and 
right ureteral stent placement. He tolerated the procedure well 
and was recovered in the pacu before transport to the general 
surgical ward. He was given intravenous perioperative 
antibiotics for prophylaxis and on POD1, his foley was removed 
and he voided without concern. He was discharged to home with a 
plan to return for bilateral ureteroscopy in the near future. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Isoniazid ___ mg PO DAILY 
2. amlodipine-valsartan ___ mg oral daily  
3. Rosuvastatin Calcium 10 mg PO QPM 
4. AzaTHIOprine 100 mg PO BID 
5. Torsemide 20 mg PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
7. Pyridoxine 50 mg PO DAILY 
8. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral Daily  
9. Glargine 31 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ONE tablet(s) by mouth Q6hrs Disp #*10 Tablet 
Refills:*0 
3.  Glargine 31 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  amlodipine-valsartan ___ mg oral daily   
5.  AzaTHIOprine 100 mg PO BID  
6.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral Daily   
7.  Isoniazid ___ mg PO DAILY  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Pyridoxine 50 mg PO DAILY  
10.  Rosuvastatin Calcium 10 mg PO QPM  
11.  Torsemide 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: PREOPERATIVE DIAGNOSIS:  Bilateral nephrolithiasis.

Secondary: IDDM, latent TB, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.  You may aslo experience some 
pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for TWO or until you are cleared by your Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room. 
 
Followup Instructions:
___